US06294555B1
To a solution of 4-(t-butoxycarbonylamino)-1-(4-piperidinylmethyl)piperidine (590 mg) in methylene chloride (30 ml) is added trimethylsilyl isocyanate (220 mg) under ice-cooling, and the mixture is stirred at room temperature for 8 hours. The reaction mixture is washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform:methanol=10:1) to give 4-(t-butoxycarbonylamino)-1-(1-carbamoyl-4-piperidinylmethyl)piperidine (540 mg).

reactant | 4-(t-butoxycarbonylamino)-1-(4-piperidinylmethyl)piperidine | 590 mg | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC1CCNCC1 | C16H31N3O2
reactant | trimethylsilyl isocyanate | 220 mg | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-(t-butoxycarbonylamino)-1-(1-carbamoyl-4-piperidinylmethyl)piperidine | 540 mg | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC1CCN(CC1)C(N)=O | C17H32N4O3
